US07297816B2
(R)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoylamino]-3-(4-chloro-phenyl)-propionic acid. (R)-2-(tert-Butoxycarbonylamino)-3-(4-chloro-phenyl)-propionic acid was treated as in EXAMPLE 2, Part A, to produce (R)-2-amino-3-(4-chloro-phenyl)-propionic acid methyl ester hydrochloride as a white solid. This salt was then coupled with 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoic acid as in EXAMPLE 1, Part C. The resulting methyl ester was hydrolyzed as in EXAMPLE 2, Part E, to afford the title compound. HPLC: RT=10.35 min. MS (ESI−): mass calcd. for C22H15Cl3N4O5S2, 583.95; m/z found, 583/585 [M−H]−. 1H NMR (500 MHz, CDCl3): 11.07 (s, 1H), 8.34 (d, J=7.1, 1H), 8.23 (d, J=8.8, 1H), 7.84 (s, 1H), 7.74-7.70 (m, 1H), 7.30-7.26 (m, 2H), 7.24 (s, 1H), 7.07 (d, J=8.3, 2H), 6.38 (d, J=7.4, 1H), 5.00-4.97 (m, 1H), 3.30 (dd, J=14.1, 5.9, 1H), 3.21 (dd, J=14.1, 5.9, 1H).

reactant | (R)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoylamino]-3-(4-chloro-phenyl)-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)Cl)C=C(C(=C2)Cl)Cl | C22H15Cl3N4O5S2
reactant | (R)-2-(tert-Butoxycarbonylamino)-3-(4-chloro-phenyl)-propionic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)Cl | C14H18ClNO4
product | (R)-2-amino-3-(4-chloro-phenyl)-propionic acid methyl ester hydrochloride | Cl.COC([C@@H](CC1=CC=C(C=C1)Cl)N)=O | InChI=1S/C10H12ClNO2.ClH/c1-14-10(13)9(12)6-7-2-4-8(11)5-3-7;/h2-5,9H,6,12H2,1H3;1H/t9-;/m1./s1
